US09282743B2
Step 3: Preparation of 2-[2-(2,5-Dimethyl-phenyl)-acetyl]-5-methoxy-[1,2,5]triazepane-1-carboxylic acid ethyl ester (compound P3.3)
To a solution of 5-methoxy-[1,2,5]triazepane-1-carboxylic acid ethyl ester hydrochloride salt (1.33 g, 4.84 mmol), triethylamine (1.68 ml, 1.22 g, 12.07 mmol) and a catalytic amount of 4-dimethylaminopyridine in tetrahydrofuran (20 ml) at 0-5° C. was added a solution of (2,5-dimethyl-phenyl)-acetyl chloride (0.93 g, 5.09 mmol) in tetrahydrofuran (5 ml) dropwise. The suspension was stirred at 0-5° C. for one hour, and at room temperature for 4 hours. The solvent was evaporated, the residue diluted with ethyl acetate (50 ml) and water (20 ml), the layers separated and the aqueous phase extracted with ethyl acetate (2×25 ml). The combined organic layers were washed with water (2×20 ml) and brine (20 ml), dried over sodium sulfate and concentrated. The residue was purified by chromatography on silica gel (cyclohexane/ethyl acetate 2:1). Yield: 1.1 g of 2-[2-(2,5-dimethyl-phenyl)-acetyl]-5-methoxy-[1,2,5]triazepane-1-carboxylic acid ethyl ester (compound P3.3) as a viscous oil. 1H-NMR (400 MHz, CD3OD): δ 1.14-1.39 (br m, 3H), 2.18 (s, 3H), 2.26 (s, 3H), 2.83-3.09 (br m, 4H), 3.13-3.32 (br m, 2H), 3.48 (s, 3H), 3.62 (br s, 2H), 3.78-4.32 (br m, overlapping signals, total 4H), 6.91 (s, 1H), 6.95 (d, J=7.8 Hz, 1H), 7.03 (d, J=7.8 Hz, 1H) ppm.

reactant | 5-methoxy-[1,2,5]triazepane-1-carboxylic acid ethyl ester hydrochloride salt | 4.84 mmol, 1.33 g | Cl.C(C)OC(=O)N1NCCN(CC1)OC
reactant | triethylamine | 12.07 mmol, 1.68 ml, 1.22 g | C(C)N(CC)CC | C6H15N
reactant | (2,5-dimethyl-phenyl)-acetyl chloride | 5.09 mmol, 0.93 g | CC1=C(C=C(C=C1)C)CC(=O)Cl | C10H11ClO
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-[2-(2,5-Dimethyl-phenyl)-acetyl]-5-methoxy-[1,2,5]triazepane-1-carboxylic acid ethyl ester | C(C)OC(=O)N1N(CCN(CC1)OC)C(CC1=C(C=CC(=C1)C)C)=O | C18H27N3O4
